US04550105
In 32 ml of tetrahydrofuran is dissolved 6.45 g of methyl 2-(2-tritylamino-4-thiazolyl)-(Z)-2-allyloxyiminoacetate, followed by addition of 32 ml of 50% formic acid. The mixture is stirred at 60° C. for 40 minutes. The reaction mixture is concentrated under reduced pressure and the solid residue is dissolved in ethyl acetate, washed with aqueous sodium hydrogen carbonate and aqueous sodium chloride in this order, and dried over anhydrous sodium sulfate. The solvent is then distilled off under reduced pressure and the residue is purified by column chromatography [silica gel: 150 g; eluent: hexane-ethyl acetate (1:1)]. The solvent is distilled off and the solid residue is washed with hexane and a small amount of ether in this order, and then dried to give methyl 2-(2-amino-4-thiazolyl)-(Z)-2-allyloxyiminoacetate, m.p. 133°-134° C.

reactant | methyl 2-(2-tritylamino-4-thiazolyl)-(Z)-2-allyloxyiminoacetate | 6.45 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OC)=N/OCC=C | C28H25N3O3S
reactant | formic acid | 32 ml | C(=O)O | CH2O2
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
product | methyl 2-(2-amino-4-thiazolyl)-(Z)-2-allyloxyiminoacetate | NC=1SC=C(N1)/C(/C(=O)OC)=N/OCC=C | C9H11N3O3S
